US06992087B2
Preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-isopropoxy-2,3-dihydro-1H-inden-1-yl]-3,6-dimethylpyrazin-2-amine
Following the procedure for the preparation of 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine but substituting (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-dimethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol and 2-iodopropane, and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ) 7.50-7.46, 7.34-7.26, 5.76, 5.43, 4.47, 3.72, 3.14-3.11, 2.41, 2.26, 1.20, 1.12; HRMS (FAB) calcd for C24H25Cl2N3O+H 442.1453, found 442.1441. Anal. Calcd for C24H25Cl2N3O: C, 65.16; H, 5.70; N, 9.50. Found: C, 65.33; H, 5.83; N, 9.34.

reactant | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-ethoxy-2,3-dihydro-1H-inden-1-yl]-3,6-diethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)OCC)CC | C25H27Cl2N3O
reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-dimethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1C)N[C@H]1[C@H](CC2=CC=CC=C12)O)C | C21H19Cl2N3O
reactant | 2-iodopropane | IC(C)C | C3H7I
product | 5-(2,4-dichlorophenyl)-N-[(1R,2S)-2-isopropoxy-2,3-dihydro-1H-inden-1-yl]-3,6-dimethylpyrazin-2-amine | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1C)N[C@H]1[C@H](CC2=CC=CC=C12)OC(C)C)C | C24H25Cl2N3O
